US09340554B2
Synthesis of 4-N-[5-bromo-6-ethylthieno[2,3-d]pyrimidin-4-yl]-1-N,1-N-dimethylcyclohexane-1,4-diamine (I-190)
Into a 250-mL round-bottom flask, was placed a solution of 4-N-[6-ethylthieno[2,3-d]pyrimidin-4-yl]-1-N,1-N-dimethylcyclohexane-1,4-diamine (4.0 g, 13.14 mmol, 1.00 equiv) in AcOH (40 mL), dibromane (4.2 g, 26.28 mmol, 2.00 equiv). The resulting solution was stirred overnight at 70° C. The resulting mixture was concentrated under vacuum. The residue was diluted with 50 mL of water. The pH value of the solution was adjusted to 8.0 with saturated sodium carbonate. The resulting solution was extracted with 4×50 mL of chloroform and the organic layers combined and dried over anhydrous sodium sulfate and concentrated under vacuum. This resulted in 3.0 g (60%) of 4-N-[5-bromo-6-ethylthieno[2,3-d]pyrimidin-4-yl]-1-N,1-N-dimethylcyclohexane-1,4-diamine as a yellow solid. MS (ES, m/z): 383 [M+H]+ 1H-NMR (400 MHz, DMSO-d6, ppm): δ 8.36 (1H, s), 6.75-6.77 (1H, d), 4.01-4.07 (1H, m), 2.81-2.88 (2H, q), 2.27 (7H, s), 2.09-2.11 (2H, d), 1.86 (2H, d), 1.32-1.40 (4H, q),1.21-1.26 (3H, t).

reactant | 4-N-[6-ethylthieno[2,3-d]pyrimidin-4-yl]-1-N,1-N-dimethylcyclohexane-1,4-diamine | 13.14 mmol, 4.0 g, 1.00 equiv | C(C)C1=CC2=C(N=CN=C2NC2CCC(CC2)N(C)C)S1 | C16H24N4S
reactant | dibromane | 26.28 mmol, 4.2 g, 2.00 equiv | BrBr | Br2
solvent | AcOH | 40 mL | CC(=O)O | C2H4O2
product | 4-N-[5-bromo-6-ethylthieno[2,3-d]pyrimidin-4-yl]-1-N,1-N-dimethylcyclohexane-1,4-diamine | BrC1=C(SC=2N=CN=C(C21)NC2CCC(CC2)N(C)C)CC | C16H23BrN4S
